US08426411B2
To a solution of 3-cyanophenylboronic acid (0.143 g, 0.974 mmol) in DCM (4 mL) was added copper (II) acetate monohydrate (0.013 g, 0.122 mmol) and 4 Å molecular sieves. The reaction mixture was purged 3 times with oxygen. A solution of (1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]-triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine (0.20 g, 0.48 mmol, Preparation #19.2) and DIEA (0.085 mL, 0.487 mmol) in MeCN (1 mL) was added and the reaction mixture was heated at about 45° C. for about 18 h. Additional copper (II) acetate monohydrate (0.013 g, 0.122 mmol) was added and the reaction mixture was stirred for about 4 h. The reaction mixture was filtered through a pad of Celite® and concd under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 0-60% EtOAc in DCM to give 3-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)benzonitrile (0.16 g, 48%) as a dark brown solid: LC/MS (Table 1, Method c) Rt=1.54 min; MS m/z: 512 (M+H)+.

reactant | 3-cyanophenylboronic acid | 0.974 mmol, 0.143 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | (1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]-triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.48 mmol, 0.20 g | C[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C20H22N6O2S
reactant | DIEA | 0.487 mmol, 0.085 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | MeCN | 1 mL | CC#N | C2H3N
catalyst | copper (II) acetate monohydrate | 0.122 mmol, 0.013 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper (II) acetate monohydrate | 0.122 mmol, 0.013 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-((1S,3R,4S)-3-methyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)benzonitrile | 0.16 g, 48% | C[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NC=1C=C(C#N)C=CC1 | C27H25N7O2S
